US04415621
Preparation of 3,5-bis(4-diethylaminobenzylidene)-1-methyl-4-piperidone
1-methyl-4-piperidone (2.25 g) and 7.1 g of p-diethylamino-benzaldehyde were added to a solution of 4 g potassium hydroxide in 50 ml methanol. The reaction mixture was heated at reflex 31/2 hours and allowed to stand at room temperature overnight. The product was collected and recrystallized from 700 ml acetonitrile. The UV spectra of the isolated product was consistent with the structure of the titled compound.

reactant | 1-methyl-4-piperidone | 2.25 g | CN1CCC(CC1)=O | C6H11NO
reactant | p-diethylamino-benzaldehyde | 7.1 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | potassium hydroxide | 4 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 3,5-bis(4-diethylaminobenzylidene)-1-methyl-4-piperidone | C(C)N(C1=CC=C(C=C2CN(CC(C2=O)=CC2=CC=C(C=C2)N(CC)CC)C)C=C1)CC | C28H37N3O
